US04140789
5.2 g of benzonitrile, 18 ml of a 30 percent strength aqueous solution of hydrogen peroxide and 1.0 g of potassium bicarbonate are added to a suspension of 10.1 g of 8-allyloxy-2,3-dihydro-(4H)-benz[5.6]oxazin-3-one in 400 ml of methanol and the mixture is then stirred for 3 days at 20°. The reaction mixture is then concentrated to a volume of 40 ml under reduced pressure. After leaving to stand at 0°, 8-(2,3-epoxy-propoxy)-2,3-dihydro-(4H)-benz[5.6]oxazin-3-one is obtained in the form of colourless crystals, which are filtered off and washed with a little cold methanol; melting point 158°-160°.

reactant | benzonitrile | 5.2 g | C(C1=CC=CC=C1)#N | C7H5N
reactant | hydrogen peroxide | OO | H2O2
reactant | potassium bicarbonate | 1.0 g | C([O-])(O)=O.[K+]
reactant | 8-allyloxy-2,3-dihydro-(4H)-benz[5.6]oxazin-3-one | 10.1 g | C(C=C)OC1=CC=CC=2CC(NOC21)=O | C11H11NO3
solvent | methanol | 400 ml | CO | CH4O
product | 8-(2,3-epoxy-propoxy)-2,3-dihydro-(4H)-benz[5.6]oxazin-3-one | O1C(COC2=CC=CC=3CC(NOC32)=O)C1 | C11H11NO4
